US06914074B2
8-Chloro-2-naphthol
The title compound was prepared by reacting 8-chloro-2-methoxynaphthalene (10.25 g, 53.4 mmol) with boron tribromide (67 mL of 1 N solution, 67 mmol) according to method D to yield 8.76 g (92%) of a yellow solid. An analytical sample was further purified by reverse phase preparative HPLC to yield the title compound as a white solid: mp 95-100° C.; 1H NMR (DMSO-d6): δ 7.18 (1H, dd, J=2.37 Hz, J=8.85 Hz), 7.23-7.28 (1H, m), 7.41 (1H, d, J=2.28 Hz), 7.59 (1H, d, J=7.37 Hz), 7.81 (1H, d, J=8.15 Hz), 7.87 (1H, d, J=8.86 Hz), 10.17 (1H, s); MS m/z177/179 (M−H)−.

reactant | 8-chloro-2-methoxynaphthalene | 53.4 mmol, 10.25 g | ClC=1C=CC=C2C=CC(=CC12)OC | C11H9ClO
reactant | boron tribromide | 67 mmol, 1 N, 67 mL | B(Br)(Br)Br | BBr3
product | 8-Chloro-2-naphthol | ClC=1C=CC=C2C=CC(=CC12)O | C10H7ClO
